US06613942B1
Syringaldehyde (4-hydroxy-3,5-dimethoxybenzaldehyde) (10.2 g, 55 mmol) was dissolved in DMF (45 ml), and 4-isopropylbenzylchloride (9.7 g, 55 mmol) and potassium carbonate (11.5 g) were added successively. The resulting mixture was heated at 60° C. for 16 hours. After cooling, the mixture was partitioned between water (150 ml) and ethyl acetate (3×100 ml). The combined organic extracts were washed with water (100 ml), saturated NaCl (100 ml), dried (MgSO4), treated with activated carbon, filtered and concentrated in vacuo to afford 15 g (100%) of 4-(4-isopropylbenzyloxy)-3,5-dimethoxybenzaldehyde as an oil.

reactant | Syringaldehyde | 55 mmol, 10.2 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | 4-isopropylbenzylchloride | 55 mmol, 9.7 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 4-(4-isopropylbenzyloxy)-3,5-dimethoxybenzaldehyde | 15 g, 100% | C(C)(C)C1=CC=C(COC2=C(C=C(C=O)C=C2OC)OC)C=C1 | C19H22O4
